US07015218B1
By the reaction and treatment in the same manner as in Example 64 using 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic acid (2 g) and 5-amino-2-(4-morpholinopiperidin-1-yl)benzonitrile (2.2 g), 1-(4-chlorophenyl)-N-[3-cyano-4-(4-morpholinopiperidin-1-yl)phenyl]-5-methylpyrazole-4-carboxamide (1.3 g) was obtained, melting point: 249–250° C.

reactant | 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic acid | 2 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)O | C11H9ClN2O2
reactant | 5-amino-2-(4-morpholinopiperidin-1-yl)benzonitrile | 2.2 g | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)N1CCOCC1 | C16H22N4O
product | 1-(4-chlorophenyl)-N-[3-cyano-4-(4-morpholinopiperidin-1-yl)phenyl]-5-methylpyrazole-4-carboxamide | 1.3 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)NC1=CC(=C(C=C1)N1CCC(CC1)N1CCOCC1)C#N | C27H29ClN6O2
